US07446222B2
c) 2-Benzyloxy-5-trifluoromethylbenzeneboronic acid
A solution of 4-benzyloxy-3-bromobenzotrifluoride (4.48 g, 13.54 mmol) in tetrahydrofuran (100 ml) was cooled to −100° C. (diethyl ether/liquid nitrogen) with stirring under nitrogen. 1.6 M n-butyllithium in hexanes (9.3 ml, 14.89 mmol) was added over 20 mins. at −100° C. and the mixture warmed to −78° C. (acetone/Drikold) and stirred for 1 h. Triisopropylborate (7.64 g, 9.38 ml, 40.66 mmol) was added dropwise at −78° C. and the reaction stirred and allowed to warm to room temperature over 1.5 h. 1M Hydrochloric acid (100 ml) was added and the mixture stirred vigorously for 1 h. The layers were separated and the aqueous layer extracted with diethyl ether (50 ml). The combined organic phases were washed with water, dried (MgSO4) and the solvent removed in vacuo. The yellow waxy solid was flash chromatographed (silica gel, 4-20% EtOAc-isohexane) and the product triturated with hexane. The white solid was filtered and dried in vacuo to give the title compound (1.53 g, 38%).

reactant | 4-benzyloxy-3-bromobenzotrifluoride | 13.54 mmol, 4.48 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)Br | C14H10BrF3O
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | acetone Drikold | CC(=O)C.C(=O)=O
reactant | Triisopropylborate | 40.66 mmol, 9.38 ml, 7.64 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | Hydrochloric acid | 1M, 100 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Benzyloxy-5-trifluoromethylbenzeneboronic acid | 1.53 g, 38% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)B(O)O | C14H12BF3O3
